US04608373
In 80 ml of ethanol was suspended 6.2 g of (2-tritylamino-4-thiazolyl)methoxyphthalimide and after adding thereto 600 mg of hydrazine hydrate, the suspension was refluxed for 90 minutes. After cooling the reaction mixture by ice water, the precipitates thus formed were filtered and the filtrate was concentrated. To the residue was added 50 ml of ethyl acetate, insoluble materials precipitated were removed by filtration and the filtrate was concentrated. The residue thus formed was dissolved in 100 ml of ethanol. To the solution was added 4.78 g of 2-(2-tritylamino-4-thiazolyl)glyoxylic acid and after further adding thereto 100 ml of methanol and 200 ml of dichloromethane, the mixture was stirred for one hour at room temperature. The reaction mixture was concentrated to 1/4 of the original volume and 50 ml of dimethylformamide was added for dissolving the concentrate. The solution was stirred for 30 minutes and after adding thereto 500 ml of chloroform and 300 ml of ice water, the pH of the solution was adjusted to 1 to 2 with 1N hydrochloric acid solution. The precipitates thus formed were collected by filtration, were washed with water and then ether, and dried to provide 5.7 g of (Z)-α-(2-tritylamino-4-thiazolyl)-α-[(2-tritylamino-4-thiazolyl)methoxyimino]acetic acid. On the other hand, the chloroform layer thus formed was washed with water, dried by anhydrous magnesium sulfate, and concentrated. To the residue thus formed was added ether and the mixture was filtered to provide 0.51 g of the desired product.

reactant | (2-tritylamino-4-thiazolyl)methoxyphthalimide | 6.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)COC1=C2C(C(=O)NC2=O)=CC=C1 | C31H23N3O3S
reactant | hydrazine hydrate | 600 mg | O.NN
reactant | 2-(2-tritylamino-4-thiazolyl)glyoxylic acid | 4.78 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=O | C24H18N2O3S
reactant | methanol | 100 ml | CO | CH4O
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (Z)-α-(2-tritylamino-4-thiazolyl)-α-[(2-tritylamino-4-thiazolyl)methoxyimino]acetic acid | 5.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OCC=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H37N5O3S2
